US07332508B2
Step A: 3-(1-Cyclopentylpiperidin-4-yl)-1-propanol
To a solution of 3-(piperidin-4-yl)-1-propanol (4.7 g, 33 mmol) in acetonitril (100 mL) was added potassium carbonate (25 g, 180 mmol) and cyclopentylbromide (24.5 g, 164 mmol) and the reaction mixture was stirred at reflux temperature overnight. The mixture was allowed to cool, then filtered and the solvent evaporated. The residue was dissolved in ethyl acetate (150 mL) and the organic mixture was dried (MgSO4). The mixture was filtered and the solvent was evaporated. The residue was treated with diethyl ether (100 mL) and the organic phase was decanted and evaporated. This afforded 5.8 g of 3-(1-cyclopentylpiperidin-4-yl)-1-propanol contaminated with probably cyclopentylbromide. 1H NMR (400 MHz, CDCl3) δ 1.2-2.0 (m, 17H), 2.05-2.15 (m, 1H), 2.45 (pent., 1H), 2.95-3.05 (m, 2H), 3.55-3.65 (m, 2H), 4.28-4.36 (m, 2H).

reactant | 3-(piperidin-4-yl)-1-propanol | 33 mmol, 4.7 g | N1CCC(CC1)CCCO | C8H17NO
reactant | potassium carbonate | 180 mmol, 25 g | C([O-])([O-])=O.[K+].[K+]
reactant | cyclopentylbromide | 164 mmol, 24.5 g | C1(CCCC1)Br | C5H9Br
solvent | acetonitril | 100 mL | C(C)#N | C2H3N
product | 3-(1-Cyclopentylpiperidin-4-yl)-1-propanol | C1(CCCC1)N1CCC(CC1)CCCO | C13H25NO
